* c:\users\shree\esim-workspace\pn_generation_ashwini\pn_generation_ashwini.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ? dff_sky
* u5  net-_u1-pad4_ net-_u1-pad2_ net-_u1-pad3_ net-_u5-pad4_ ? dff_sky
* u6  net-_u5-pad4_ net-_u1-pad2_ net-_u1-pad3_ net-_u6-pad4_ ? dff_sky
* u7  net-_u6-pad4_ net-_u1-pad2_ net-_u1-pad3_ net-_u7-pad4_ ? dff_sky
* u8  net-_u1-pad4_ net-_u5-pad4_ net-_u6-pad4_ net-_u7-pad4_ d1 d2 d3 d4 dac_bridge_4
v2  clk gnd pulse(0 1.8 0 0.1n 0.1n 2m 4m)
v1  rst gnd pulse(1.8 0 1m 0.1n 0.1n 1 1)
* u12  d1 plot_v1
* u11  d2 plot_v1
* u10  d4 plot_v1
* u13  d3 plot_v1
* u9  net-_u7-pad4_ net-_u5-pad4_ net-_u1-pad1_ xor_sky
* u2  rst plot_v1
* u3  clk plot_v1
* s c m o d e
* u4  rst clk net-_u1-pad3_ net-_u1-pad2_ adc_bridge_2
* u14  net-_u1-pad1_ xor_o dac_bridge_1
* u15  xor_o plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ ] [? ] u1
a2 [net-_u1-pad4_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u5-pad4_ ] [? ] u5
a3 [net-_u5-pad4_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u6-pad4_ ] [? ] u6
a4 [net-_u6-pad4_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u7-pad4_ ] [? ] u7
a5 [net-_u1-pad4_ net-_u5-pad4_ net-_u6-pad4_ net-_u7-pad4_ ] [d1 d2 d3 d4 ] u8
a6 [net-_u7-pad4_ ] [net-_u5-pad4_ ] [net-_u1-pad1_ ] u9
a7 [rst clk ] [net-_u1-pad3_ net-_u1-pad2_ ] u4
a8 [net-_u1-pad1_ ] [xor_o ] u14
* Schematic Name:                             dff_sky, NgSpice Name: dff_sky
.model u1 dff_sky(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff_sky, NgSpice Name: dff_sky
.model u5 dff_sky(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff_sky, NgSpice Name: dff_sky
.model u6 dff_sky(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff_sky, NgSpice Name: dff_sky
.model u7 dff_sky(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             xor_sky, NgSpice Name: xor_sky
.model u9 xor_sky(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.4 in_high=1.4 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=1.8 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-03 32me-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d1)
plot v(d2)
plot v(d4)
plot v(d3)
plot v(rst)
plot v(clk)
plot v(xor_o)
.endc
.end
